US07270770B2
Terbium tris 2,2,6,6-tetramethylheptanedionate (1 g) and triphenylphosphine oxide (0.393 g) were added to anhydrous ethanol (3 ml). The mixture was warmed to dissolve the solid, and then raised to boiling for 10 minutes. The solution was cooled to room temperature and then to 0° C. to induce crystallisation of the product. The off-white solid was filtered off and recrystallised from anhydrous ethanol and dried in vacuo at 60° C. to yield tris 2,2,6,6-tetramethylheptanedionato terbium triphenylphosphine oxide adduct (0.9 g) as a white solid.

reactant | Terbium | [Tb] | Tb
reactant | triphenylphosphine oxide | 0.393 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | terbium triphenylphosphine oxide | 0.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O.[Tb] | InChI=1S/C18H15OP.Tb/c19-20(16-10-4-1-5-11-16,17-12-6-2-7-13-17)18-14-8-3-9-15-18;/h1-15H;
